*----------------------------------------------------------------------
* SPICE Model generated by Murata Manufacturing Co., Ltd.
* Copyright(C) Murata Manufacturing Co., Ltd.
* Description :1005M(0402)/X5R(-55to85[deg])/2.20e-02[uF]/10[V]
* Murata P/N :GRM15XR61A223MA86
* Property : C = 2.20e-02[uF]
* Data Generated on Jan 30, 2024
*----------------------------------------------------------------------
* Applicable Conditions:
*   Frequency Range = 100[Hz]-6[GHz]
*   Temperature = 25 degC
*   DC Bias Voltage = 0V
*   Small Signal Operation
*----------------------------------------------------------------------
.SUBCKT GRM15XR61A223MA86 Port1 Port2
C01 Port1 N01 2.26e-08
R01 Port1 N01 1.00e+10
L02 N01 N02 1.47e-10
R03 N02 N03 5.32e-02
C04 N03 N04 2.36e-06
R04 N03 N04 1.46e+03
C05 N04 N05 4.66e-06
R05 N04 N05 1.67e+02
C06 N05 N06 3.37e-06
R06 N05 N06 4.20e+01
C07 N06 N07 2.98e-06
R07 N06 N07 8.57e+00
C08 N07 N08 2.38e-06
R08 N07 N08 1.32e+00
C09 N08 N09 1.74e-06
R09 N08 N09 2.48e-01
C10 N09 N10 1.24e-06
R10 N09 N10 4.71e-02
L11 N10 N11 2.04e-11
R11 N10 N11 1.69e-01
L12 N11 N12 3.96e-11
R12 N11 N12 1.19e-01
C13 N12 N13 9.73e-09
L13 N12 N13 3.74e-11
R13 N12 N13 3.66e-02
C14 N13 Port2 1.85e-12
L14 N13 Port2 1.15e-10
R14 N13 Port2 2.19e+01
.ENDS GRM15XR61A223MA86
